US05498630
3-Chloro-N,N-diethyl-2-(trimethylsilyl)benzamide
N,N-diethyl-3-chlorobenzamide (10.45 g, 50 mmol) (prepared from 3-chlorobenzoic acid and diethylamine using the procedures described above) was reacted with TMSCl (16.30 g, 150 mmol) using General Method A to afford 13.4 g of the title compound as an orange oil in 95% yield.

reactant | N,N-diethyl-3-chlorobenzamide | 50 mmol, 10.45 g | C(C)N(C(C1=CC(=CC=C1)Cl)=O)CC | C11H14ClNO
reactant | 3-chlorobenzoic acid | ClC=1C=C(C(=O)O)C=CC1 | C7H5ClO2
reactant | diethylamine | C(C)NCC | C4H11N
reactant | TMSCl | 150 mmol, 16.30 g | C[Si](C)(C)Cl | C3H9ClSi
product | 3-Chloro-N,N-diethyl-2-(trimethylsilyl)benzamide | 13.4 g, 95% yield | ClC=1C(=C(C(=O)N(CC)CC)C=CC1)[Si](C)(C)C | C14H22ClNOSi
